US08486979B2
5-(6-chloropyridin-3-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 1 using N′-hydroxynicotinimidamide (Tyger) and 6-chloronicotinoyl chloride (Aldrich). 1H NMR (300 MHz, CDCl3) δ 7.48 (dd, J=7.6, 5.3 Hz, 1 H), 7.57 (d, J=8.5 Hz, 1 H), 8.40-8.48 (m, 2 H), 8.80 (dd, J=4.7, 1.7 Hz, 1 H), 9.24 (d, J=2.4 Hz, 1 H), 9.40 (d, J=2.4 Hz, 1 H) ppm; MS (DCI/NH3) m/z 259 (M+H)+, 261 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | NH3 | N | H3N
product | 5-(6-chloropyridin-3-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | ClC1=CC=C(C=N1)C1=NC(=NO1)C=1C=NC=CC1 | C12H7ClN4O
